US06090852
(b) N-Hydroxy 2-({methyl-[2-(biphen-4-yl)ethyl]amino}sulfonyl)acetamide
In a manner similar to Example 1 (b), methyl 2-({methyl-[2-(biphen-4-yl)ethyl]amino}sulfonyl)acetate was reacted with hydroxylamine to give the title compound as a colourless solid.

reactant | methyl 2-({methyl-[2-(biphen-4-yl)ethyl]amino}sulfonyl)acetate | CN(S(=O)(=O)CC(=O)OC)CCC1=CC=C(C=C1)C1=CC=CC=C1 | C18H21NO4S
reactant | hydroxylamine | NO | H3NO
product | N-Hydroxy 2-({methyl-[2-(biphen-4-yl)ethyl]amino}sulfonyl)acetamide | ONC(CS(=O)(=O)N(CCC1=CC=C(C=C1)C1=CC=CC=C1)C)=O | C17H20N2O4S
